US04985440
A mixture of 4.56 g (0.02 mol) of 3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-ol [m.p. 210°-215° C., prepared following the procedure described in J. Heterocyclic Chem. 23, 1693 (1986)] and 2.3 g (0.02 mol) of potassium tert.butoxide in 100 ml of tert.butanol is heated, under vigorous stirring, at 50° C. for 30'. A solution of 3.9 g (0.02 mol) of ethyl bromoisobutyrate in 10 ml of tert.butanol is rapidly added dropwise and the resulting mixture refluxed for 4 hours. The solvent is evaporated under vacuum and the residue is taken up with H2O (100 ml) and ethyl acetate. The aqueous solution is separated and extracted again with ethyl acetate (2×100 ml). The combined organic layers are washed with brine and dried over Na2SO4. After removal of the solvent under vacuum, the residue is chromatographed over silica gel (eluant chloroform/methanol 95/5) giving 4.7 g of ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate, colourless oil.

reactant | 3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-ol | 0.02 mol, 4.56 g | CN1C(=NC=C1)C=1COC2=C(C1)C=C(C=C2)O | C13H12N2O2
reactant | potassium tert.butoxide | 0.02 mol, 2.3 g | CC(C)([O-])C.[K+]
reactant | ethyl bromoisobutyrate | 0.02 mol, 3.9 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | tert.butanol | 100 ml | C(C)(C)(C)O | C4H10O
solvent | tert.butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate | 4.7 g | CN1C(=NC=C1)C=1COC2=C(C1)C=C(C=C2)OC(C(=O)OCC)(C)C | C19H22N2O4
